US07893257B2
1-Cyclopropylpiperazine dihydrochloride
To 1-(4-cyclopropyl-piperazin-1-yl)-2,2,2-trifluoro-ethanone (444.4 mg, 2 mmol) was added a mixture of HCl/IPA (5-6N, 2 mL). Solids were observed to precipitate immediately after the HCl/IPA was added. The resulting suspension was stirred for 5 h. Heptane (2 mL) was then added to the reaction mixture, followed by addition of IPA (2 mL). The resulting suspension was stirred for 0.5 h at ambient temperature. The solids were filtered off using a medium glass sintered funnel with a filter paper on the top. The reaction flask was rinsed with IPA (3 mL) and the rinse was used to wash the solids. The solid was washed a second time with fresh IPA (2 mL). The solids were dried at ambient temperature and house vacuum to yield the title compound as a white crystalline solid.

reactant | 1-(4-cyclopropyl-piperazin-1-yl)-2,2,2-trifluoro-ethanone | 2 mmol, 444.4 mg | C1(CC1)N1CCN(CC1)C(C(F)(F)F)=O | C9H13F3N2O
reactant | HCl IPA | 5-6N, 2 mL | Cl.CC(C)O
product | 1-Cyclopropylpiperazine dihydrochloride | Cl.Cl.C1(CC1)N1CCNCC1 | InChI=1S/C7H14N2.2ClH/c1-2-7(1)9-5-3-8-4-6-9;;/h7-8H,1-6H2;2*1H
